US08431581B2
Preparation of Trifluoro-methanesulfonic acid 4-fluoro-2-(morpholine-4-sulfonyl)-phenyl ester
To a solution of 4-fluoro-2-(morpholinosulfonyl)phenol (0.4 g, 1.5 mmol) and DMAP (0.28 g 2.29 mmol) in CH2Cl2(10 ml), Tf2O (0.93 ml 5.5 mmol) was added dropwise at 0° C. The mixture was stirred at room temperature for 4 h, after which the mixture was washed with hydrochloric acid (1N, 20 ml) and then extracted with EA. The extracts were combined, washed with brine, dried over sodium sulfate and evaporated into dryness. The resulting residue was purified by column chromatography using PE/EA (10/1) as eluent to give the desired product (469 mg, yield 78%).

reactant | 4-fluoro-2-(morpholinosulfonyl)phenol | 1.5 mmol, 0.4 g | FC1=CC(=C(C=C1)O)S(=O)(=O)N1CCOCC1 | C10H12FNO4S
reactant | Tf2O | 5.5 mmol, 0.93 ml | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
catalyst | DMAP | 2.29 mmol, 0.28 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | Trifluoro-methanesulfonic acid 4-fluoro-2-(morpholine-4-sulfonyl)-phenyl ester | 469 mg, yield 78% | FC1=CC(=C(C=C1)OS(=O)(=O)C(F)(F)F)S(=O)(=O)N1CCOCC1 | C11H11F4NO6S2
